US08293897B2
N-(5-(7-(4-oxaspiro[2.4]heptane-6-yloxy)quinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide
The title compound was prepared according to the procedure described in Example 6 by using (4-oxaspiro[2.4]heptane-6-yl)methanesulfonate (220 mg, 1.14 mmol), N-(5-(7-hydroxyquinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide (300 mg, 0.64 mmol), and cesium carbonate (450 mg, 2.4 mmol, Aladdin) in DMA (6 mL). The title compound was purified with a silica gel column chromatography (EtOAc) to give a white solid (140 mg, 39%).

reactant | (4-oxaspiro[2.4]heptane-6-yl)methanesulfonate | 1.14 mmol, 220 mg | C1CC12OCC(C2)CS(=O)(=O)[O-]
reactant | N-(5-(7-hydroxyquinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide | 0.64 mmol, 300 mg | OC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C26H21N5O4
reactant | cesium carbonate | 2.4 mmol, 450 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
product | N-(5-(7-(4-oxaspiro[2.4]heptane-6-yloxy)quinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide | C1CC12OCC(C2)OC2=CC=C1C(=CC=NC1=C2)OC=2C=CC(=NC2)NC(=O)C=2C(N(N(C2C)C)C2=CC=CC=C2)=O | C32H29N5O5
